US05073556
30 ml of an aqueous solution containing 6.60 g (0.096 moles) of sodium nitrite were slowly added dropwise, whilst stirring and ice-cooling, to a suspension of 15.53 g (0.064 moles) of 3-difluoromethoxy-2,4,5-trifluorobenzoyl amide [(XXVI), X=X'=F, R16 =NH2 ] [prepared as described in step (b) above] in 20 ml of concentrated aqueous sulfuric acid, and the mixture was heated under reflux for 30 minutes. At the end of this time, it was cooled to room temperature, and then 50 ml of water were added it. The reaction mixture was then extracted with chloroform. The extract was washed with water and dried over anhydrous sodium sulfate, and then the solvent was removed by distillation under reduced pressure, to give 15.59 g of 3-difluoromethoxy-2,4,5-trifluorobenzoic acid as a colorless powder.

reactant | sodium nitrite | 0.096 moles, 6.60 g | N(=O)[O-].[Na+]
reactant | 3-difluoromethoxy-2,4,5-trifluorobenzoyl amide | 0.064 moles, 15.53 g | FC(OC=1C(=C(C(=O)[NH-])C=C(C1F)F)F)F
reactant | water | 50 ml | O | H2O
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 3-difluoromethoxy-2,4,5-trifluorobenzoic acid | 15.59 g | FC(OC=1C(=C(C(=O)O)C=C(C1F)F)F)F | C8H3F5O3
